US06372735B1
Isobutyl aldehyde (2.9 ml), sodium iodide (3.18 g), potassium carbonate (11.69 g), and isopropyl chloroformate (7.2 ml) were added in that order under an argon atmosphere at room temperature to a solution of ethyl 5-(5-isopropoxy-4-methoxy-2-nitrobenzoyl)-1H-1,2,3-triazole-4-carboxylate (8.01 g), prepared in step (32a), in acetone (150 ml). The mixture was stirred at that temperature for 19.5 hr. Water was added to the reaction mixture to stop the reaction. The mixture was extracted with ethyl acetate. The organic layer was washed with 20% saline and dried over anhydrous magnesium sulfate. The solvent was evaporated. The resultant mixture was purified by column chromatography on silica gel (hexane/ethyl acetate) to give ethyl 2-(1-isopropoxycarbonyloxy-2-methylpropyl)-5-(5-isopropoxy-4-methoxy-2-nitrobenzoyl)-2H-1,2,3-triazole-4-carboxylate (10.12 g, 89%).

reactant | sodium iodide | 3.18 g | [I-].[Na+]
reactant | potassium carbonate | 11.69 g | C([O-])([O-])=O.[K+].[K+]
reactant | isopropyl chloroformate | 7.2 ml | ClC(=O)OC(C)C | C4H7ClO2
reactant | ethyl 5-(5-isopropoxy-4-methoxy-2-nitrobenzoyl)-1H-1,2,3-triazole-4-carboxylate | 8.01 g | C(C)(C)OC=1C(=CC(=C(C(=O)C2=C(N=NN2)C(=O)OCC)C1)[N+](=O)[O-])OC | C16H18N4O7
reactant | acetone | 150 ml | CC(=O)C | C3H6O
solvent | Water | O | H2O
product | ethyl 2-(1-isopropoxycarbonyloxy-2-methylpropyl)-5-(5-isopropoxy-4-methoxy-2-nitrobenzoyl)-2H-1,2,3-triazole-4-carboxylate | 10.12 g, 89% | C(C)(C)OC(=O)OC(C(C)C)N1N=C(C(=N1)C(=O)OCC)C(C1=C(C=C(C(=C1)OC(C)C)OC)[N+](=O)[O-])=O | C24H32N4O10
